*A. Cihan ÖZÇÖREKÇÝ (Y2)
.model D1N4148 D(IS=5.84n N=1.94 RS=0.7017 XTI=3 EG=1.11 CJO=0.95p 
+ M=0.55 VJ=0.75 FC=0.5 BV=100 IBV=100u RS=0.5664 TT=11.07)
VVIN 1 0 DC 5
DD1 1 2 D1N4148
RR1 2 0 10K
.control 
dc VVIN -300 200 0.1
plot -VVIN#branch vs V(1)-V(2)
.endc
